US09120749B2
Cyclopropyl{4-[4-(diallylamino)-4-methylcyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}methanone
Following general procedure F, {6-Bromo-4-[4-(diallylamino)-4-methylcyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (96 mg, 0.198 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (86 mg, 0.297 mmol) to afford the desired product (23 mg, 27%) as a yellow solid: ESI MS m/z 564 [C32H35Cl2N3O2+H]+.

reactant | {6-Bromo-4-[4-(diallylamino)-4-methylcyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.198 mmol, 96 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)(C)N(CC=C)CC=C | C26H32BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.297 mmol, 86 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{4-[4-(diallylamino)-4-methylcyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}methanone | 23 mg, 27% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1CCC(CC1)(C)N(CC=C)CC=C)C1=CC(=C(C(=C1)Cl)O)Cl | C32H35Cl2N3O2
